US09085578B2
6-chloro-3-(tetrahydro-2H-pyran-4-yl)pyrimidin-4(3H)-one
A mixture of 6-hydroxy-3-(tetrahydro-2H-pyran-4-yl)pyrimidin-4(3H)-one obtained in Reference Example 25 (210 mg) and phosphorus oxychloride (6 mL) was stirred at 100° C. for 2 hr. The mixture was allowed to be cooled to room temperature, the solvent was evaporated under reduced pressure, and the residue was subjected to azeotropy with toluene to give a residue. The residue was dissolved in water (10 mL), and the solution was basified with saturated aqueous sodium hydrogen carbonate solution (30 mL) under ice-cooling. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give a residue. The residue was purified by chromatography (hexane/ethyl acetate) to give the title compound (125 mg).

reactant | 6-hydroxy-3-(tetrahydro-2H-pyran-4-yl)pyrimidin-4(3H)-one | OC1=CC(N(C=N1)C1CCOCC1)=O | C9H12N2O3
reactant | phosphorus oxychloride | 6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | 30 mL | C(O)([O-])=O.[Na+]
solvent | water | 10 mL | O | H2O
product | 6-chloro-3-(tetrahydro-2H-pyran-4-yl)pyrimidin-4(3H)-one | 125 mg | ClC1=CC(N(C=N1)C1CCOCC1)=O | C9H11ClN2O2
